US05378689
(2R, 4S, 5S)-5(t-Butoxycarbonyl)amino-N-butyl-6-cyclohexyl-4-hydroxy-2-methylhexanamide
A mixture of 0.4 g (1.23 mmole) of (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 2) and 6 ml of butylamine was heated under reflux for 3.0 hours, whilst stirring. At the end of this time, the reaction mixture was concentrated by distillation under reduced pressure, after which the residue was purified by column chromatography through silica gel (using ethyl acetate as the eluent) to afford 0.48 g of the title compound as a white powder.

reactant | (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 1.23 mmole, 0.4 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
reactant | butylamine | 6 ml | C(CCC)N | C4H11N
product | (2R, 4S, 5S)-5(t-Butoxycarbonyl)amino-N-butyl-6-cyclohexyl-4-hydroxy-2-methylhexanamide | 0.48 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C)O)CC1CCCCC1 | C22H42N2O4
